US04026936
4-(3-Nitro-4-aminobenzoyl)pyridine
The procedure of Example 24 was followed except 4-(3-nitro-4-chlorobenzoyl)pyridine was used in place of 3-(3-nitro-4-chlorobenzoyl)pyridine. The product was orange prisms, mp. 294° -295° C. (dimethylformamide-2-propanol).

reactant | 4-(3-nitro-4-chlorobenzoyl)pyridine | [N+](=O)([O-])C=1C=C(C(=O)C2=CC=NC=C2)C=CC1Cl | C12H7ClN2O3
reactant | dimethylformamide 2-propanol | CN(C=O)C.CC(C)O
product | 4-(3-Nitro-4-aminobenzoyl)pyridine | [N+](=O)([O-])C=1C=C(C(=O)C2=CC=NC=C2)C=CC1N | C12H9N3O3
